US08022205B2
3-(2-Morpholin-4-yl-8-pyridin-4-yl-5,6,7,8-tetrahydro-pyrido[2,3-d]pyrimidin-4-yl)-phenol
A solution of 4-(3-methoxyphenyl)-2-morpholin-4-yl-8-pyrimidin-4-yl-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidine (0.50 g, 1.24 mmol) in dimethylformamide (5 ml) was heated to 150° C., and sodium ethanethiolate (1.04 g, 12.4 mmol) was added for every 15 minutes in 3 portions. After heating at 150° C. for 2 hours, sodium ethanethiolate (1.04 g, 12.4 mmol) was added, followed by heating for further 15 minutes. After cooling the reaction mixture, water (5 ml) and ethyl acetate (20 ml) were added, to filter off the deposited precipitate. The crude product was purified by silica column chromatography (dichloromethane/methanol=95/5), to obtain the desired compound as a pale brown solid (0.21 g, 43% yield).

reactant | 4-(3-methoxyphenyl)-2-morpholin-4-yl-8-pyrimidin-4-yl-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidine | 1.24 mmol, 0.50 g | COC=1C=C(C=CC1)C=1C2=C(N=C(N1)N1CCOCC1)N(CCC2)C2=NC=NC=C2 | C22H24N6O2
reactant | sodium ethanethiolate | 12.4 mmol, 1.04 g | C(C)[S-].[Na+]
reactant | sodium ethanethiolate | 12.4 mmol, 1.04 g | C(C)[S-].[Na+]
reactant | water | 5 ml | O | H2O
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 3-(2-Morpholin-4-yl-8-pyridin-4-yl-5,6,7,8-tetrahydro-pyrido[2,3-d]pyrimidin-4-yl)-phenol | 0.21 g, 43% yield | N1(CCOCC1)C=1N=C(C2=C(N1)N(CCC2)C2=CC=NC=C2)C=2C=C(C=CC2)O | C22H23N5O2
